US07696221B2
Step 2: 5-Ethylthieno[3,2-c]isoquinoline (Compound 4c)
A suspension of Thieno[3,2-c]isoquinoline 4-oxide (20 g, 99 mmol) in dry tetrahydrofuran (ca. 400 mL) was treated dropwise at −78° C. with an ethereal solution of ethylmagnesium bromide (3.0 M, 40 mL, 120 mmol) during 10 min. After 6 h the reaction mixture was quenched with 2 N aqueous hydrochloride acid (75 mL) and stirred for ca. 10 min. At this time the solution was treated with 2.5 N aqueous sodium hydroxide (65 mL). The resulting gelatinous residue was diluted with water (400 mL), filtered through Celite, and the filtrate was extracted with ethyl acetate (3×500 mL). The combined extracts were washed with water and brine (1.5 L each), dried (K3CO3) and concentrated in vacuo to give the crude product (19 g) as an orange oil which was taken up in methylene chloride (ca. 60 mL) and pre-adsorbed on silica gel (60 g). Flash chromatography on silica gel (740 g) eluting 2.5-, then 5-, and then 10% ethyl acetate-hexane provided the title compound (17 g, 81%, m.p. 39-41° C.) as a clear, pale yellow oil which crystallized on standing.

reactant | Thieno[3,2-c]isoquinoline 4-oxide | 99 mmol, 20 g | S1C=CC=2[N+](=CC=3C=CC=CC3C21)[O-] | C11H7NOS
reactant | ethylmagnesium bromide | 120 mmol, 3.0 M, 40 mL | C(C)[Mg]Br
solvent | tetrahydrofuran | ca. 400 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | ca. 60 mL | C(Cl)Cl | CH2Cl2
product | 5-Ethylthieno[3,2-c]isoquinoline | 17 g, 81% | C(C)C1=NC2=C(C=3C=CC=CC13)SC=C2 | C13H11NS
